.subckt buf8 A VDD VSS Y
M17 Y net13 VDD VDD pchor1ex w=6u l=1u
M15 Y net13 VDD VDD pchor1ex w=6u l=1u
M12 Y net13 VDD VDD pchor1ex w=6u l=1u
M10 Y net13 VDD VDD pchor1ex w=6u l=1u
M8 Y net13 VDD VDD pchor1ex w=6u l=1u
M6 Y net13 VDD VDD pchor1ex w=6u l=1u
M4 Y net13 VDD VDD pchor1ex w=6u l=1u
M3 Y net13 VDD VDD pchor1ex w=6u l=1u
M2 net13 A VDD VDD pchor1ex w=6u l=1u
M16 Y net13 VSS VSS nchor1ex w=2u l=1u
M14 Y net13 VSS VSS nchor1ex w=2u l=1u
M13 Y net13 VSS VSS nchor1ex w=2u l=1u
M11 Y net13 VSS VSS nchor1ex w=2u l=1u
M9 Y net13 VSS VSS nchor1ex w=2u l=1u
M7 Y net13 VSS VSS nchor1ex w=2u l=1u
M5 Y net13 VSS VSS nchor1ex w=2u l=1u
M1 net13 A VSS VSS nchor1ex w=2u l=1u
M0 Y net13 VSS VSS nchor1ex w=2u l=1u
.ends buf8